US08530493B2
57. (3aSR,10RS)-6-Chloro-2-(3-chloro-propyl)-10-(3-hydroxy-phenyl)-3a-methyl-3a,4,9,10-tetrahydro-2,9,10a-triaza-cyclopenta[b]fluorene-1,3-dione
The title compound is prepared analogously to the procedure described for example 22, using chloro propyl isocyanate and (1RS,3SR)-6-chloro-1-(3-hydroxy-phenyl)-3-methyl-2,3,4,9-tetrahydro-1H-betacarboline-3-carboxylic acid methyl ester. MS: m/z (MH+)=457.9

reactant | chloro propyl isocyanate | ClCCCN=C=O | C4H6ClNO
reactant | (1RS,3SR)-6-chloro-1-(3-hydroxy-phenyl)-3-methyl-2,3,4,9-tetrahydro-1H-betacarboline-3-carboxylic acid methyl ester | COC(=O)C1(NC(C=2NC3=CC=C(C=C3C2C1)Cl)C1=CC(=CC=C1)O)C | C20H19ClN2O3
product | (3aSR,10RS)-6-Chloro-2-(3-chloro-propyl)-10-(3-hydroxy-phenyl)-3a-methyl-3a,4,9,10-tetrahydro-2,9,10a-triaza-cyclopenta[b]fluorene-1,3-dione | ClC=1C=C2C=3CC4(N(C(C3NC2=CC1)C1=CC(=CC=C1)O)C(N(C4=O)CCCCl)=O)C | C23H21Cl2N3O3
